US07186729B2
4-[1-(4-Chloro-benzyl)-2-hydroxy-ehtylamino]-piperidine-1-carboxylic acid tert-butyl ester, the intermediate alcohol was dissolved in 15 mL of methylene chloride. Triethylamine (0.423 g, 0.00418 mol, 583 uL 1.2 equiv) was added followed by portionwise addition of carbonyl diimidazole (0.68 g, 0.00418 mol, 1.2 equiv). The mixture was stirred at room temperature and then quenched with water (15 mL). The organic layers were separated and the remaining aqueous layer was extracted with methylene chloride (3×15 mL). The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo to afford a yellow solid. The crude oil was purified by silica gel chromatography (methylene chloride to 10% methanol in methylene chloride gradient) to afford 4-[4-(4-chloro-benzyl)-2-oxo-oxazolidin-3-yl]-piperidine-1-carboxylic acid tert-butyl ester as a white solid (1.1 g, 80%).

reactant | 4-[1-(4-Chloro-benzyl)-2-hydroxy-ehtylamino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(CO)CC1=CC=C(C=C1)Cl | C19H29ClN2O3
reactant | Triethylamine | 0.00418 mol, 583 uL, 0.423 g, 1.2 equiv | C(C)N(CC)CC | C6H15N
reactant | carbonyl diimidazole | 0.00418 mol, 0.68 g, 1.2 equiv | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(4-chloro-benzyl)-2-oxo-oxazolidin-3-yl]-piperidine-1-carboxylic acid tert-butyl ester | 1.1 g, 80% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(OCC1CC1=CC=C(C=C1)Cl)=O | C20H27ClN2O4
